US04720495
4.62 g (0.015 mole) of 8-chloro-9-fluoro-5-ethyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid was suspended in 45 ml of dimethyl sulfoxide, 7.69 g (0.06 mole) of N-isopropylpiperazine was added thereto, and this mixture was stirred at 100°-110° C. for 8 hours. The resulting reaction solution was evaporated to dryness under reduced pressure. 40 ml of methanol was added to the resulting residue and this mixture was stirred. The insoluble matter was collected by filtration and recrystallized from ethanol to obtain 3.88 g (64.7% yield) of 9-fluoro-5-ethyl-8-(4-isopropyl-1-piperazinyl)-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid in the form of pale-yellow crystals. These crystals had a melting point of 186°-195° C. (dec.).

reactant | 8-chloro-9-fluoro-5-ethyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.015 mole, 4.62 g | ClC1=C(C=C2C(C(=CN3C(C=CC1=C23)CC)C(=O)O)=O)F | C15H11ClFNO3
reactant | N-isopropylpiperazine | 0.06 mole, 7.69 g | C(C)(C)N1CCNCC1 | C7H16N2
solvent | dimethyl sulfoxide | 45 ml | CS(=O)C | C2H6OS
product | 9-fluoro-5-ethyl-8-(4-isopropyl-1-piperazinyl)-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3.88 g, 64.7% yield | FC1=C(C=2C=CC(N3C=C(C(C(C23)=C1)=O)C(=O)O)CC)N1CCN(CC1)C(C)C | C22H26FN3O3
